US07312330B2
C. N-(4-(Difluoromethoxy)phenyl)-5,6,7,8-tetrahydro-7-(3-(methylsulfonyl)pyridin-2-yl)pyrido[3,4-d]pyrimidin-4-amine
The title compound was prepared according to the procedure given for Example 9 using N-(4-(difluoromethoxy)phenyl)-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidin-4-amine (0.088 g, 0.30 mmol), 2-chloro-3-(methylsulfonyl)pyridine (Ponticello et al, J. Org. Chem., 44(17), 1979) (0.115 mg, 0.60 mmol) and N,N-diisopropylethylamine (0.079 mL, 0.45 mmol) to obtain 0.085 g of title compound as a light yellow solid.

reactant | N-(4-(difluoromethoxy)phenyl)-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidin-4-amine | 0.30 mmol, 0.088 g | FC(OC1=CC=C(C=C1)NC=1C2=C(N=CN1)CNCC2)F | C14H14F2N4O
reactant | 2-chloro-3-(methylsulfonyl)pyridine | 0.60 mmol, 0.115 mg | ClC1=NC=CC=C1S(=O)(=O)C | C6H6ClNO2S
reactant | N,N-diisopropylethylamine | 0.45 mmol, 0.079 mL | C(C)(C)N(C(C)C)CC | C8H19N
product | N-(4-(Difluoromethoxy)phenyl)-5,6,7,8-tetrahydro-7-(3-(methylsulfonyl)pyridin-2-yl)pyrido[3,4-d]pyrimidin-4-amine | 0.085 g | FC(OC1=CC=C(C=C1)NC=1C2=C(N=CN1)CN(CC2)C2=NC=CC=C2S(=O)(=O)C)F | C20H19F2N5O3S
